datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1COC2(CC[C:20](=[O:21])CC2)O1.FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:14]1[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N+:14]1=[C:13]1[CH:12]=[CH:11][N:10]([C:20]2([O-:21])CCC3(CC2)OCCO3)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1=CC=C([S:63]([N:12](CC2=CC=CC=C2)[C:11]#[C:10]C2=CC=CC=C2)(=[O:64])=[O:74])C=C1>>CC1=CC=C([S:63]([N+:12](CC2=CC=CC=C2)=[C:11]=[C:10](C2=CC=CC=C2)[CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)(=[O:64])=[O:74])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.CC[O:62]/[C:11](=[CH:10]/[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)[P+:71](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12"
"C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]([N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21"
C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[N:82]1[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[N:82]1[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:91](=[O:92])[N:102](C)[C:83]1=[O:84] 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20"
"CCCC[CH:11]=[CH2:10].C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CCCC[CH+:11][CH2:10][CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:61](=[O:62])[N:10]=[C:11]1[O-:12].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[C:11](=[O:12])CC[C:61]2=[O:62])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2.[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62].[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>C[C:61]([CH:10]([CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
